US05929067
b) 4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pentanoic acid ethyl ester
A solution of 29 g of 4-[N'-methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pent-2-enoic acid ethyl ester [see example 2b)] in 300 ml of tetrahydrofuran is hydrogenated for 0.5 hour in the presence of 3 g of palladium/activated carbon (10%) and 6 g of 1,2-dichlorobenzene. The reaction mixture is then filtered and concentrated by evaporation. The residue is chromatographed (silica gel, hexane/ethyl acetate 3:1). In this way the title compound is obtained in the form of a colourless oil. 1H-NMR, 500 MHz, DMSO, 140°, delta (ppm): 7.99(s, 1H), 7.51(s, 2H), 7.30(td, 2H), 7.18(d, 2H), 4.5(b, 1H), 4.06(q, 2H), 2.9(m, 1H), 2.8(m, 4H), 2.35(m, 2H), 2.02(m, 1H), 1.90(m, 1H), 1.19(t, 3H).

reactant | 4-[N'-methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pent-2-enoic acid ethyl ester | 29 g | C(C)OC(C=CC(CC1=CC=C(C=C1)Cl)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C23H20ClF6NO3
reactant | 1,2-dichlorobenzene | 6 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium | 3 g | [Pd] | Pd
product | 4-[N'-Methyl-N'-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(4-chlorophenyl)-pentanoic acid ethyl ester | C(C)OC(CCC(CC1=CC=C(C=C1)Cl)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C23H22ClF6NO3
